US06268523B1
To a reaction vial with a TEFLON fluoropolymer magnetic stirring rod, 3 ml containing 0.2 M tert-butyl hydroperoxide and 0.2 M pivalic acid in isooctane was added. The reaction was started by addition of 200 mg of Rhizomucor miehei enzyme and about 10 mg of molsieves (3 grains). After sixty-seven hours, 13% conversion to tert-butyl peroxypivalate was obtained as measured with GC.

reactant | tert-butyl hydroperoxide | 0.2 M | C(C)(C)(C)OO | C4H10O2
reactant | pivalic acid | 0.2 M | C(C(C)(C)C)(=O)O | C5H10O2
solvent | isooctane | C(C)(C)CC(C)(C)C | C8H18
product | tert-butyl peroxypivalate | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
